US07816401B2
(2) Synthesis of (3S,4S,5E)-7-[(4-methoxybenzyl)oxy]-3,5-dimethylhepta-1,5-dien-4-ol (P15)
1N hydrochloric acid (100 ml) was added to an acetonitrile (300 ml) solution of tert-butyl({(1S,2E)-4-[(4-methoxybenzyl)oxy]-2-methyl-1-[(1S)-1-methylprop-2-en-1-yl]but-2-en-1-yl}oxy)dimethylsilane (41.8 g, 107 mmol). After the reaction solution was stirred at room temperature for ten and a half hours, it was poured into brine and extracted with ethyl acetate. After the organic layer was washed with brine, it was dried over anhydrous magnesium sulfate. After the drying agent was filtered off, the organic layer was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (Kanto Chemical, commercial name Silica gel 60N, granular, neutral, 0.040 mm-0.100 mm; n-heptane:ethyl acetate=4:1→3:1→2:1) and was obtained title compound (26.8 g) as a colorless oil.

reactant | hydrochloric acid | 1N, 100 ml | Cl | ClH
reactant | acetonitrile | 300 ml | C(C)#N | C2H3N
reactant | tert-butyl({(1S,2E)-4-[(4-methoxybenzyl)oxy]-2-methyl-1-[(1S)-1-methylprop-2-en-1-yl]but-2-en-1-yl}oxy)dimethylsilane | 107 mmol, 41.8 g | C(C)(C)(C)[Si](C)(C)O[C@H](\C(=C\COCC1=CC=C(C=C1)OC)\C)[C@H](C=C)C | C23H38O3Si
solvent | brine | [Cl-].[Na+].O
product | (3S,4S,5E)-7-[(4-methoxybenzyl)oxy]-3,5-dimethylhepta-1,5-dien-4-ol | 26.8 g | COC1=CC=C(COC/C=C(/[C@H]([C@H](C=C)C)O)\C)C=C1 | C17H24O3
